US04219657
(C) 9-chlorodibenzothiophene-3-acetic acid ethyl ester
To a 1-l. three-necked flask provided with a condenser, stirrer and dropping funnel was added 11 g. of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) and 500 ml. of dioxane. To the solution heated to reflux, was added at a rapid rate a solution of 6 g. of 9-chloro-1,2,3,4-tetrahydrodibenzothiophene-3-acetic acid ethyl ester in 100 ml. of dioxane. The solution was refluxed and stirred for 24 hours, cooled to room temperature and then filtered to remove the hydroquinone. The solvent was removed in vacuo on the steam bath, and the residue was dissolved in 200 ml. of methylene chloride. This solution was passed through a column containing about 150 g. of alumina (Woelm, grade 1). The solvent was removed on the steam bath and the residue was crystallized from alcohol. The yield of 9-chlorodibenzothiophene-3-acetic acid ethyl ester was 1.1 g., m.p. 82°-84°.

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 9-chloro-1,2,3,4-tetrahydrodibenzothiophene-3-acetic acid ethyl ester | C(C)OC(CC1CCC2=C(SC3=C2C(=CC=C3)Cl)C1)=O | C16H17ClO2S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9-chlorodibenzothiophene-3-acetic acid ethyl ester | C(C)OC(CC=1C=CC2=C(SC3=C2C(=CC=C3)Cl)C1)=O | C16H13ClO2S
